US04659516
A solution of the 4-(N-benzyloxycarbonyl-N-methylamino)-N-n-hexylbutyramide thus obtained (6.6 g.) in ethanol (100 ml.) was shaken with hydrogen in the presence of a 10% palladium-on-charcoal catalyst (0.6 g.) for 18 hours, filtered and evaporated to dryness. There was thus obtained as residual oil N-n-hexyl-4-methylaminobutyramide.

reactant | 4-(N-benzyloxycarbonyl-N-methylamino)-N-n-hexylbutyramide | C(C1=CC=CC=C1)OC(=O)N(C)CCCC(=O)NCCCCCC | C19H30N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.6 g | [Pd] | Pd
product | N-n-hexyl-4-methylaminobutyramide | C(CCCCC)NC(CCCNC)=O | C11H24N2O
